US04547501
(c) Preparation of 2-chloro-3,6-dimethoxyquinoxaline
In a flame-dri ed reaction flask under a dry nitrogen atmosphere, there was slowly added a solution consisting of 850 mg. of sodium dissolved in 80 ml. of methanol to a slurry of 7.1 g. of 2,3-dichloro-6-methoxyquinoxaline in 60 ml. of methanol at 50° C. over a period of seven hours. The resulting mixture was then heated at 50° C. overnight and finally cooled to room temperature. Upon completion of this step, the spent reaction mixture was concentrated in vacuo and the residue subsequently dissolved in chloroform, followed by washing with water and drying over anhydrous magnesium sulfate. After removal of the drying agent by means of filtration and the solvent by means of evaporation under reduced pressure, the resulting resiuue was subsequently chromatographed on a column of 400 ml. of silica gel, followed by elution with toluene. The good fractions were combined and concentrated in vacuo to ultimately afford a white solid consisting of 6.1 g (88%) of pure 2-chloro-3,6-methoxyquinoxaline m.p. 79°-81° C.

reactant | sodium | [Na] | Na
reactant | 2,3-dichloro-6-methoxyquinoxaline | ClC1=NC2=CC=C(C=C2N=C1Cl)OC | C9H6Cl2N2O
reactant | methanol | CO | CH4O
product | 2-chloro-3,6-dimethoxyquinoxaline | ClC1=NC2=CC=C(C=C2N=C1OC)OC | C10H9ClN2O2
